US06514964B1
Step A: Trans-glutaconic Acid Methyl Ester
To a stirring solution of glutaconic acid in DMF (0.1 M) at 0° C. was added NaH (1 eq). After 15 min, iodomethane (1.2 eq) was added, and the mixture was allowed to warm to room temperature overnight. The reaction was quenched with saturated ammonium chloride, and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was chromatographed (silica; 10% MeOH/CHCl3) to afford a colorless viscous oil. EI-MS m/z 143 (M−H)−

reactant | glutaconic acid | C(C=CCC(=O)O)(=O)O | C5H6O4
reactant | NaH | 1 eq | [H-].[Na+]
reactant | iodomethane | 1.2 eq | IC | CH3I
solvent | DMF | 0.1 M | CN(C)C=O | C3H7NO
product | Trans-glutaconic Acid Methyl Ester | COC(\C=C\CC(=O)O)=O | C6H8O4
